US08383827B2
Step 1: Synthesis of 6-chloro-1-methyl-1H-pyrrolo[2,3-b]pyridine
To a solution of 6 chloro-7-aza indole (1.00 g, 6.55 mmol) in DMF (30 mL) at 0° C. was added sodium hydride (0.524 g, 13.11 mmol) and the mixture was stirred at 0° C. for 20 min. Methyl iodide (0.512 mL, 8.19 mmol) was added at 0° C. and the mixture was warmed to room temperature and stirred for 2 h. The reaction was stopped, quenched with water and extracted with ethyl acetate. The organic layer was washed with water. It was then dried over sodium sulfate and concentrated in vacuo to give 1.01 g of the desires product as a brown color oil. ESI-MS: m/z 167.0 (M+H)+

reactant | chloro-7-aza indole | 6.55 mmol, 1.00 g | ClC=1NC2=NC=CC=C2C1 | C7H5ClN2
reactant | sodium hydride | 13.11 mmol, 0.524 g | [H-].[Na+]
reactant | Methyl iodide | 8.19 mmol, 0.512 mL | CI | CH3I
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 6-chloro-1-methyl-1H-pyrrolo[2,3-b]pyridine | 1.01 g | ClC1=CC=C2C(=N1)N(C=C2)C | C8H7ClN2
